US09359359B2
To a solution of 1-(3-(benzyloxy)cyclobutyl)-7-(4-chlorobenzyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (110 mg, 0.175 mmol) in methanol was added 5% Pd/C (15 mg). The mixture was hydrogenated at 45 psi for 30 min. The reaction was filtered and concentrated to give a crude product which was purified via preparative HPLC to give 7-(4-chlorobenzyl)-1-(3-hydroxycyclobutyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (11 mg, 17.7% yield) as white solid.

reactant | 1-(3-(benzyloxy)cyclobutyl)-7-(4-chlorobenzyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 0.175 mmol, 110 mg | C(C1=CC=CC=C1)OC1CC(C1)N1C(N(C=2N=C(N(C2C1=O)CC1=CC=C(C=C1)Cl)OC1=CC(=CC=C1)OC(F)(F)F)C)=O | C31H26ClF3N4O5
solvent | methanol | CO | CH4O
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 7-(4-chlorobenzyl)-1-(3-hydroxycyclobutyl)-3-methyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 11 mg, 17.7% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)C2CC(C2)O)=O)C)OC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C24H20ClF3N4O5
